US08138189B2
Step 1: 5-[2-(4-Bromo-2-chloro-phenyl)-acetyl]-1-methyl-1H-pyridin-2-one
To a suspension of 1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (606 mg) in CH2Cl2 (5 ml) were added one drop of N,N-dimethylformamide and oxalylchloride (803 mg). The mixture was stirred at room temperature for 1.5 h and was then concentrated to dryness. 1,2-Dimethoxyethane was added and the solvent was evaporated again to give the crude acid chloride. To a suspension of zinc powder (517 mg) in 1,2-dimethoxyethane (5 ml) was added tetrakis(triphenylphosphine)palladium(0) (55 mg). A suspension of the acid chloride in 1,2-dimethoxyethane (5 ml) was added. The mixture was cooled in an ice bath and a solution of 4-bromo-1-bromomethyl-2-chloro-benzene (1.125 g) in 1,2-dimethoxyethane (5 ml) was slowly added over 30 min. The mixture was stirred for 30 min at 0° C. and for 1.5 h at room temperature. The mixture was filtered and the filtrate was concentrated. The product was purified by chromatography (SiO2, cyclohexane/EtOAc 7:3=>0:1) to give the title compound (603 mg, not completely pure) as a colorless solid. MS (m/e, ISP neg. ion)=338.0 [M−H+].

reactant | 1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 606 mg | CN1C=C(C=CC1=O)C(=O)O | C7H7NO3
reactant | oxalylchloride | 803 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-1-bromomethyl-2-chloro-benzene | 1.125 g | BrC1=CC(=C(C=C1)CBr)Cl | C7H5Br2Cl
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
catalyst | zinc | 517 mg | [Zn] | Zn
catalyst | tetrakis(triphenylphosphine)palladium(0) | 55 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[2-(4-Bromo-2-chloro-phenyl)-acetyl]-1-methyl-1H-pyridin-2-one | BrC1=CC(=C(C=C1)CC(=O)C=1C=CC(N(C1)C)=O)Cl | C14H11BrClNO2
